US09447033B2
ii) 3-Benzylamino-N-isopropyl-benzamide
A solution of 3-benzylamino-benzoic acid (500 mg, 1.5 mmol), HATU (832 mg, 2 mmol), diisopropylethylamine (0.38 ml, 2 mmol) and isopropylamine (0.19 ml, 2 mmol) in acetonitrile was heated to 50° C. for 16 hrs. On cooling, solvents were removed in vacuo and the residue partitioned between dichloromethane and water (50 ml/50 ml). The organic layer was separated, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by column chromatography (ethyl acetate/dichloromethane 0% to 50% v/v) to afford the title compound as a white solid (242 mg). HPLC retention time 2.69 min. Mass spectrum (ES+) m/z 269.9 (M+H).

reactant | 3-benzylamino-benzoic acid | 1.5 mmol, 500 mg | C(C1=CC=CC=C1)NC=1C=C(C(=O)O)C=CC1 | C14H13NO2
reactant | HATU | 2 mmol, 832 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 2 mmol, 0.38 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | isopropylamine | 2 mmol, 0.19 ml | C(C)(C)N | C3H9N
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-Benzylamino-N-isopropyl-benzamide | 242 mg | C(C1=CC=CC=C1)NC=1C=C(C(=O)NC(C)C)C=CC1 | C17H20N2O
